US08530667B2
To a solution of 5-[5-(4-chloro-phenyl)-2-ethyl-thiophen-3-yl]-4-hydroxy-cyclopent-2-enone (300 mg, 0.95 mmol) in acetone (5 ml) at 0° C. is added, dropwise, Jones' reagent and the resulting yellow solution stirred at 0° C. for 80 minutes. Reaction is quenched by the addition of propan-2-ol (1 ml) and stirred for a further 2 hours. Brine (50 ml) is added and the reaction is extracted with ethyl acetate (2×50 ml). The combined organics are then washed with brine, dried over magnesium sulphate and concentrated in vacuo to give 2-[5-(4-chloro-phenyl)-2-ethyl-thiophen-3-yl]-cyclopent-4-ene-1,3-dione as an orange solid (248 mg).

reactant | 5-[5-(4-chloro-phenyl)-2-ethyl-thiophen-3-yl]-4-hydroxy-cyclopent-2-enone | 0.95 mmol, 300 mg | ClC1=CC=C(C=C1)C1=CC(=C(S1)CC)C1C(C=CC1=O)O | C17H15ClO2S
reactant | Jones' reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 2-[5-(4-chloro-phenyl)-2-ethyl-thiophen-3-yl]-cyclopent-4-ene-1,3-dione | 248 mg | ClC1=CC=C(C=C1)C1=CC(=C(S1)CC)C1C(C=CC1=O)=O | C17H13ClO2S
